US06812229B1
10.3 g of methyl 4-chloro-3-(methoxycarbonylaminomethyl)benzoate was dissolved in 80 ml of anhydrous tetrahydrofuran, 100 ml of diisobutylaluminum hydride (0.95 M hexane solution) was dropwise added thereto in an atmosphere of nitrogen at from −50° C. to −30° C., and after completion of the dropwise addition, the mixture was stirred at room temperature for 16 hours. After completion of the reaction, diluted hydrochloric acid was dropwise added to the reaction mixture at 0° C., water was added thereto, extraction with ethyl acetate was carried out, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (Wakogel C-200, eluent: hexane/ethyl acetate=1/1) to obtain 6.5 .g of methyl N-(2-chloro-5-hydroxymethylbenzyl)carbamate as white crystals.

reactant | methyl 4-chloro-3-(methoxycarbonylaminomethyl)benzoate | 10.3 g | ClC1=C(C=C(C(=O)OC)C=C1)CNC(=O)OC | C11H12ClNO4
reactant | diisobutylaluminum hydride | 0.95 M, 100 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | methyl N-(2-chloro-5-hydroxymethylbenzyl)carbamate | ClC1=C(CNC(OC)=O)C=C(C=C1)CO | C10H12ClNO3
